US06211215B1
In substantially the same manner as in Reference Example 12, 3-[3-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propanol was allowed to react with methanesulfonyl chloride to give 3-[3-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl methanesulfonate. The yield was 78%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 75-76° C.

reactant | 3-[3-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propanol | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)COC=1C=C(C=CC1)CCCO | C21H21NO3
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 3-[3-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl methanesulfonate | yield was 78% | CS(=O)(=O)OCCCC1=CC(=CC=C1)OCC=1N=C(OC1)\C=C\C1=CC=CC=C1 | C22H23NO5S
